US09427475B2
Step A: 2-chloroethyl 3,4,6-tri-O-acetyl-2-deoxy-2-fluoro-D-glucopyranoside
To a solution of 2-chloroethanol (1.0 mL, 14.92 mmol), 3,4,6-tri-O-acetyl-2-deoxy-2-fluoro-D-glucopyranosyl trichloroacetimidate (1.4 g, 3.09 mmol, Angew. Chem. Int. Ed. 2010, 49, 8724) and 4 Å molecular sieves in CH2Cl2 (50 mL) at −30° C. was added trimethylsilyl trifluoromethanesulfonate (0.25 mL, 1.384 mmol) dropwise. The mixture was allowed to gradually warm up to rt. After stirring for 2 hr, the reaction was quenched with TEA (0.13 mL, 0.933 mmol). The resulting mixture was filtered and the filtrate was concentrated. The residue was purified by flash chromatography on silica gel (80 g), eluting with 0-60% EtOAc in hexanes to give the title compound. This anomeric mixture was used directly in the next step without further purification. TLC: silica gel, hexane/EtOAc: 3/1, Rf=0.35.

reactant | 2-chloroethanol | 14.92 mmol, 1.0 mL | ClCCO | C2H5ClO
reactant | 3,4,6-tri-O-acetyl-2-deoxy-2-fluoro-D-glucopyranosyl trichloroacetimidate | 3.09 mmol, 1.4 g | ClC(C(OC1[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)F)=N)(Cl)Cl | C14H17Cl3FNO8
reactant | trimethylsilyl trifluoromethanesulfonate | 1.384 mmol, 0.25 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-chloroethyl 3,4,6-tri-O-acetyl-2-deoxy-2-fluoro-D-glucopyranoside | C(C)(=O)O[C@@H]1[C@H](C(OCCCl)O[C@@H]([C@H]1OC(C)=O)COC(C)=O)F | C14H20ClFO8
